US04212865
To a solution of 0.75 g. of 5-amino-2-nitro-3-phenylbenzofuran in 5 ml. of glacial acetic acid and 3 ml. of water is added an equimolar amount of potassium isocyanate dissolved in 5 ml. of warm water. The reaction is stirred at about 20° C. for 30 minutes then filtered to separate the solid product. The solid is recrystallized from aqueous methanol to provide yellow crystals of 2-nitro-3-phenyl-5-ureidobenzofuran, m.p. 230°-232° C.

reactant | 5-amino-2-nitro-3-phenylbenzofuran | NC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C14H10N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium isocyanate | [N-]=C=O.[K+]
solvent | water | O | H2O
product | 2-nitro-3-phenyl-5-ureidobenzofuran | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)NC(=O)N | C15H11N3O4
